US09034880B2
Preparation of the title compound was carried out according to General Method 8. p-Tolylhydrazine hydrochloride (500 mg, 3.1 mmol), 1-bromo-2-cyclohexylethane (602 mg, 3 mmol), triethyl amine (303 mg, 3 mmol) and N-methyl-4-piperidone hydrochloride (589 mg, 4.5 mmol) were combined in ethanol (3 ml) to obtain 150 mg of 5-(2-cyclohexylethyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole after purification on neutral alumina using ethyl acetate-hexane gradient.

reactant | p-Tolylhydrazine hydrochloride | 3.1 mmol, 500 mg | Cl.C1(=CC=C(C=C1)NN)C
reactant | 1-bromo-2-cyclohexylethane | 3 mmol, 602 mg | BrCCC1CCCCC1 | C8H15Br
reactant | triethyl amine | 3 mmol, 303 mg | C(C)N(CC)CC | C6H15N
reactant | N-methyl-4-piperidone hydrochloride | 4.5 mmol, 589 mg | Cl.CN1CCC(CC1)=O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 5-(2-cyclohexylethyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | 150 mg | C1(CCCCC1)CCN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C21H30N2
